US04054659
0.78 g of 5,7-diacetoxy-1-(3,4,5-trimethoxybenzyl)-isoquinoline hydrochloride is dissolved in 200 ml of ethanol, and 0.3 g of platinum dioxide is added thereto. The mixture is shaken at 25° C in a hydrogen atmosphere. After the hydrogen uptake is completed, the catalyst is removed by filtration. 50 ml of a hydrochloric acid-ethanol solution (the content of hydrochloric acid: 9%) are added to the filtrate, and this mixture is heated at 50° C for 5 minutes. Then, the mixture is evaporated to remove solvent, and the residue thus obtained is recrystallized from a mixture of ethanol and isopropyl ether. 0.6 g of 5,7-dihydroxy-1-(3,4,5-trimethoxybenzyl)-1,2,3,4-tetrahydroisoquinoline hydrochloride is thereby obtained. Yield: 94.6% M.p. 240° - 243° C.

reactant | 5,7-diacetoxy-1-(3,4,5-trimethoxybenzyl)-isoquinoline hydrochloride | 0.78 g | Cl.C(C)(=O)OC1=C2C=CN=C(C2=CC(=C1)OC(C)=O)CC1=CC(=C(C(=C1)OC)OC)OC
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | platinum dioxide | 0.3 g | [Pt](=O)=O
product | 5,7-dihydroxy-1-(3,4,5-trimethoxybenzyl)-1,2,3,4-tetrahydroisoquinoline hydrochloride | 0.6 g, Yield: 94.6% | Cl.OC1=C2CCNC(C2=CC(=C1)O)CC1=CC(=C(C(=C1)OC)OC)OC | InChI=1S/C19H23NO5.ClH/c1-23-17-7-11(8-18(24-2)19(17)25-3)6-15-14-9-12(21)10-16(22)13(14)4-5-20-15;/h7-10,15,20-22H,4-6H2,1-3H3;1H
